US05578607
A mixture of 6-nitro-4,5,8-trimethylquinoline (0.60 g), tin(II)chloride dihydrate (3.13 g), and ethanol (40 mL) is heated for 3 hours at 60°-65° C. and then cooled to room temperature. 10% Aqueous sodium hydroxide (24 mL) and water (48 mL) are added, and the mixture is extracted three times with chloroform. The combined organic layers are washed with saturated sodium bicarbonate solution, dried over sodium sulfate, filtered and evaporated to afford a crude product. The crude product is purified by flash chromatography using 25% ethyl acetate in hexane as eluent, providing 6-amino-4,5,8-trimethylquinoline.

reactant | 6-nitro-4,5,8-trimethylquinoline | 0.60 g | [N+](=O)([O-])C=1C(=C2C(=CC=NC2=C(C1)C)C)C | C12H12N2O2
reactant | tin(II)chloride dihydrate | 3.13 g | O.O.[Sn](Cl)Cl
reactant | ethanol | 40 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 24 mL | [OH-].[Na+]
solvent | water | 48 mL | O | H2O
product | 6-amino-4,5,8-trimethylquinoline | NC=1C(=C2C(=CC=NC2=C(C1)C)C)C | C12H14N2
